US07939661B2
Step 2: N-[5-(Piperidin-4-ylamino)-pyridin-2-yl]-acetamide dihydrochloride
A solution of 4-(6-acetylamino-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.20 g, 3.59 mmol) in dioxane (20 mL) and 4 M HCl in dioxane (20 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 235.3 [M+H]+.

reactant | 4-(6-acetylamino-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 3.59 mmol, 1.20 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=CC1)NC(C)=O | C17H26N4O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-[5-(Piperidin-4-ylamino)-pyridin-2-yl]-acetamide dihydrochloride | Cl.Cl.N1CCC(CC1)NC=1C=CC(=NC1)NC(C)=O | InChI=1S/C12H18N4O.2ClH/c1-9(17)15-12-3-2-11(8-14-12)16-10-4-6-13-7-5-10;;/h2-3,8,10,13,16H,4-7H2,1H3,(H,14,15,17);2*1H
